US06479495B1
3-Cyanomethoxy-4-methoxy-1-[(pyrrolidin-1-yl)methyl]benzene
To a solution of 3-cyanomethoxy-4-methoxybenzaldehyde (10.0 g) in 1,2-dichloroethane (400 ml) was added pyrrolidine (6.6 ml), with stirring, followed by sodium triacetoxyborohydride (22 g). The reaction mixture was stirred at ambient temperature for 1 hr and poured into ice/water 10% sodium hydroxide solution. The mixture was extracted with ethyl acetate, washed with water, saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was dissolved in dichloromethane and high performance liquid chromatographed, eluting with dichloromethane, 1%, 2% and 5% methanol/dichloromethane. The appropriate fractions were collected and concentrated to give 8.7 g (63.5%) of product as an oil.

reactant | 3-cyanomethoxy-4-methoxybenzaldehyde | 10.0 g | C(#N)COC=1C=C(C=O)C=CC1OC | C10H9NO3
reactant | pyrrolidine | 6.6 ml | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 400 ml | ClCCCl | C2H4Cl2
product | 3-Cyanomethoxy-4-methoxy-1-[(pyrrolidin-1-yl)methyl]benzene | 8.7 g, 63.5% | C(#N)COC=1C=C(C=CC1OC)CN1CCCC1 | C14H18N2O2
